US04345084
By the procedure of example 12, (Z)-2-undecen-1-ol (13 g), 27.8 g of triphenylphosphine in 100 ml of dry CCl4 were reacted under reflux for 6.5 h. Workup as described before as in example 12 gave 12.3 g of (Z)-1-chloro-2-undecene as a colorless oil: bp 65°-66° C./0.2 mmHg.

reactant | (Z)-2-undecen-1-ol | 13 g | C(\C=C/CCCCCCCC)O | C11H22O
reactant | triphenylphosphine | 27.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CCl4 | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | (Z)-1-chloro-2-undecene | 12.3 g | ClC\C=C/CCCCCCCC | C11H21Cl
